US05470851
4-Diphenylmethyl-1-(3-phthalimidopropyl)piperidine
A mixture of 1.8 g of 4-diphenylmethylpiperidine, 1.92 g of N-(3-bromopropyl)phthalimide, 3.0 g of sodium carbonate and 20 mg of sodium iodide in 70 ml of methyl isobutyl ketone was heated under reflux for 5 hours. At the end of this time, the mixture was cooled to room temperature and filtered. The filtrate was concentrated by evaporation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 3.0 g (yield 95%) of the title compound as crystals, melting at 104°-106° C.

reactant | 4-diphenylmethylpiperidine | 1.8 g | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=CC=C1 | C18H21N
reactant | N-(3-bromopropyl)phthalimide | 1.92 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | sodium carbonate | 3.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methyl isobutyl ketone | 70 ml | C(C(C)C)C(=O)C | C6H12O
catalyst | sodium iodide | 20 mg | [I-].[Na+]
product | 4-Diphenylmethyl-1-(3-phthalimidopropyl)piperidine | 3.0 g, yield 95% | C1(=CC=CC=C1)C(C1CCN(CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C29H30N2O2
